US07470709B2
Synthesis of 4-Hydroxy-3-(6-methyl-1H-benzoimidazol-2-yl)-1H-[1,7]naphthyridin-2-one
The title compound was synthesized as described in Example 50 using 3-[2-(methoxycarbonyl)acetylamino]-pyridine-4-carboxylic acid and 4-methyl-1,2-phenylenediamine. The crude product was purified by reversed-phase HPLC (DMSO/5% TFA). LC/MS m/z 293.3 (MH+), Rt 1.99 minutes.

reactant | 3-[2-(methoxycarbonyl)acetylamino]-pyridine-4-carboxylic acid | COC(=O)CC(=O)NC=1C=NC=CC1C(=O)O | C10H10N2O5
reactant | 4-methyl-1,2-phenylenediamine | CC1=CC(=C(C=C1)N)N | C7H10N2
product | 4-Hydroxy-3-(6-methyl-1H-benzoimidazol-2-yl)-1H-[1,7]naphthyridin-2-one | OC1=C(C(NC2=CN=CC=C12)=O)C1=NC2=C(N1)C=C(C=C2)C | C16H12N4O2
